US06897231B2
B. 3-(3-Quinolyl)-1H-indazole-5-carboxamide
A mixture of the 3-(1,1-dimethyl-1-stannaethyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile (0.250 g, 0.64 mmol), 3-bromoquinoline (0.088 mL, 0.64 mmol) and tetrakis(triphenylphosphine)palladium (0.074 g, 0.064 mmol) in N,N-dimethylformamide (5 ml) was heated at 80° C. for 14 h. The mixture was cooled to room temperature, diluted with water and the filtered solid was dried in the vacuum oven. Purification of the solid by column chromatography (silica gel, 30% ethyl acetate/hexanes) gave an intermediate solid which was dissolved in methanol (30 mL). Aqueous 6 N hydrochloric acid (30 mL) was added and the mixture heated at 45° C. for 4 h. The reaction mixture was poured into water, basified with potassium carbonate and the yellow solid collected by suction filtration. A mixture of this product, methanol (20 mL), aqueous 6 N sodium hydroxide (2 mL) and aqueous 30% hydrogen peroxide (3 mL) was heated at 45° C. for 3 h. Water (30 mL) was added and the solid collected. Purification of the residue by preparative HPLC (20-80% acetonitrile/water) gave the title compound (0.075 g, 41% yield): 1H NMR (DMSO-d6) δ 13.73 (s, 1H), 9.61 (d, 1H), 9.01 (s, 1H), 8.81 (s, 1H), 8.22 (m, 2H), 8.11 (d, 1H), 8.02 (d, 1H), 7.83 (t, 1H), 7.71 (t, 2H), 7.43 (br s, 1H); ES-MS (m/z) 289 [M+1]+.

reactant | 3-(1,1-dimethyl-1-stannaethyl)-1-perhydro-2H-pyran-2-yl-1H-indazole-5-carbonitrile | 0.64 mmol, 0.250 g | C[Sn](C)(C)C1=NN(C2=CC=C(C=C12)C#N)C1OCCCC1
reactant | 3-bromoquinoline | 0.64 mmol, 0.088 mL | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | hydrochloric acid | 6 N, 30 mL | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | methanol | 30 mL | CO | CH4O
catalyst | tetrakis(triphenylphosphine)palladium | 0.064 mmol, 0.074 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(3-Quinolyl)-1H-indazole-5-carboxamide | 0.075 g, 41% yield | N1=CC(=CC2=CC=CC=C12)C1=NNC2=CC=C(C=C12)C(=O)N | C17H12N4O
